US04303655
A mixture of ethyl 2-(2-amino-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)acetate, (5.6 g.), mesyl chloride (6.9 g.), pyridine (15 ml. ) and methylene chloride (45 ml.) was refluxed for 5 hours. After the reaction, the reaction mixture was concentrated. The residue was poured into ice-water (150 ml.) and stirred. The precipitates were collected by filtration, washed with water and diethyl ether and dried to give pale brown powder of ethyl 2-(2-mesylamino-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate, (6.3 g.).

reactant | ethyl 2-(2-amino-1,3-thiazol-4-yl)acetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | ethyl 2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)acetate | 5.6 g | N=C1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | mesyl chloride | 6.9 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(2-mesylamino-1,3-thiazol-4-yl)acetate | S(=O)(=O)(C)NC=1SC=C(N1)CC(=O)OCC | C8H12N2O4S2
